US08431695B2
Preparation of 7-{1-[(dimethylamino)acetyl]piperidin-3-yl}-5-(2-phenyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine
A mixture of 5-(2-phenyl-2H-indazol-6-yl)-7-piperidin-3-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine (120 mg, 0.27 mmol), N,N-dimethylglycine (31 mg, 0.30 mmol), EDCl (62 mg, 0.32 mmol), HOBt (44 mg, 0.32 mmol), and N,N-diisopropylethylamine (187 μL, 1.08 mmol) in DMF (2 mL) was stirred at rt for 16 h. The crude mixture was purified by preparative HPLC using a gradient elution from 15% to 45% acetonitrile in water followed by filtration through an acidic resin, washing with MeOH. The product was eluted with 2M NH3 in MeOH and the filtrate was concentrated to provide 19 mg (16%) of the desired product. 1H NMR (400 MHz, DMSO-d6) δ 9.16 (s, 1 H), 8.10 (d, 2 H), 7.94 (d, 1 H), 7.85 (d, 1 H), 7.69 (s, 1 H), 7.53-7.63 (m, 2 H), 7.39-7.48 (m, 1 H), 722 (s, 1 H), 6.67-6.73 (m, 1 H), 3.98-4.57 (m, 2 H), 2.84-3.38 (m, 5 H), 2.58-2.81 (m, 1 H), 2.08-2.29 (m, 6 H), 1.68-1.91 (m, 2 H), 1.39-1.66 (m, 1 H); ES-MS m/z 495.15 [M+H]+, HPLC RT (min) 2.27.

reactant | 5-(2-phenyl-2H-indazol-6-yl)-7-piperidin-3-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine | 0.27 mmol, 120 mg | C1(=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2CNCCC2 | C24H23N7
reactant | N,N-dimethylglycine | 0.30 mmol, 31 mg | CN(CC(=O)O)C | C4H9NO2
reactant | EDCl | 0.32 mmol, 62 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 0.32 mmol, 44 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N,N-diisopropylethylamine | 1.08 mmol, 187 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 7-{1-[(dimethylamino)acetyl]piperidin-3-yl}-5-(2-phenyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine | 19 mg, 16% | CN(C)CC(=O)N1CC(CCC1)C1=CC(=C2C(=NC=NN21)N)C=2C=CC1=CN(N=C1C2)C2=CC=CC=C2 | C28H30N8O
